US06605323B1
A solution of the Grignard compound prepared from 0.55 mol of magnesium and 0.37 mol of 1 -bromo-4-nonylbenzene in 550 ml of dry tetrahydrofuran is added dropwise to a solution of 0.4 mol of trimethyl borate in 400 ml of dry tetrahydrofuran at 0° C. under a protective gas atmosphere. The mixture is stirred for an additional 2.5 h at this temperature. Then 600 ml of 10% stength hydrochloric acid are added and the resulting mixture is stirred at room temperature for 30 min. After addition of 120 g of sodium chloride, the reaction mixture is extracted with tert-butyl methyl ether, the combined organic extracts are washed with saturated sodium chloride solution and dried with magnesium sulfate. The solvent is removed under reduced pressure and the raw product is recrystallized from acetonitrile, giving 72 g (79%) of 4-nonylphenylboronic acid.

reactant | magnesium | 0.55 mol | [Mg] | Mg
reactant | 1 -bromo-4-nonylbenzene | 0.37 mol | BrC1=CC=C(C=C1)CCCCCCCCC | C15H23Br
reactant | trimethyl borate | 0.4 mol | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 600 ml | Cl | ClH
reactant | sodium chloride | 120 g | [Cl-].[Na+]
solvent | tetrahydrofuran | 550 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 4-nonylphenylboronic acid | 72 g, 79% | C(CCCCCCCC)C1=CC=C(C=C1)B(O)O | C15H25BO2
